US06951930B2
4-nitrophenyl {2-[(2-hydroxyethyl)sulfonyl]ethoxy}formate (18).
A solution of 2,2′-sulfonyldiethanol (4.85 g, 39.75 mmol) and p-nitrophenyl chloroformate (2.0 g, 9.92 mmol), in 20 ml of dry pyridine, was stirred for 2 h at room temperature and then evaporated to dryness. The residue was dissolved in 350 ml of ethyl acetate and washed with water (4×100 ml). The organic solution was dried over sodium sulfate, filtered and evaporated. The crude product was purified by silica gel chromatography, eluting with ethyl acetate. The pure product fractions were pooled and evaporated affording an oil: 0.68 g (22%) yield.

reactant | 2,2′-sulfonyldiethanol | 39.75 mmol, 4.85 g | S(=O)(=O)(CCO)CCO | C4H10O4S
reactant | p-nitrophenyl chloroformate | 9.92 mmol, 2.0 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4-nitrophenyl {2-[(2-hydroxyethyl)sulfonyl]ethoxy}formate | OCCS(=O)(=O)CCOC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H13NO8S
